US08357706B2
Prepared using General Procedure 1. To 3-methylisonicotinonitrile (0.500 g, 4.2 mmol) in EtOH (7 mL) was added hydroxylamine hydrochloride (0.588 g, 8.5 mmol) and Na2CO3 (1.34 g, 12.7 mmol) and the reaction mixture was heated at 85° C. for 4 h. Once cooled to room temperature, the reaction mixture was filtered using EtOH to rinse the filter cake. The filtrate was concentrated under reduced pressure. The resulting pale yellow solid was triturated with ice water (50 mL), filtered, and the solid was washed with ice water (5 mL). The solid was dried under reduced pressure to yield 0.47 g (74%) of N-hydroxy-3-methylisonicotinimidamide INT-69 as a white powder. LCMS-ESI (m/z) calculated for C7H9N3O: 151.2; found 152.1 [M+H]+, tR=0.56 min. 1H NMR (400 MHz, CD3OD) δ 8.43-8.32 (m, 2H), 7.34 (d, J=5.0, 1H), 2.39 (s, 3H).

reactant | 3-methylisonicotinonitrile | 4.2 mmol, 0.500 g | CC1=C(C#N)C=CN=C1 | C7H6N2
reactant | hydroxylamine hydrochloride | 8.5 mmol, 0.588 g | Cl.NO
reactant | Na2CO3 | 12.7 mmol, 1.34 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | EtOH | 7 mL | CCO | C2H6O
product | N-hydroxy-3-methylisonicotinimidamide | 0.47 g, 74% | ONC(C1=C(C=NC=C1)C)=N | C7H9N3O
